US04515951
4,5,6,7-Tetrahydro-thieno[3,2-c]pyridine-2-boronic acid; formula (VII)
45.4 cc. of a 12% solution of butyl lithium in hexane (0.084 mol) are added dropwise, under an atmosphere of nitrogen, to a solution, cooled to -20° C., of 15 g. (0.07 mol) 5-trimethylsilyl-4,5,6,7-tetrahydrothieno[3,2-c]pyridine, prepared as in Example 7, in 150 cc. of THF. The reaction mixture is allowed to return to 0° C. and 3 cc. HMPT are added thereto. After cooling this mixture to -50° C., a solution of 19.3 g. (0.084 mol) tributyl borate in 30 cc. THF is added dropwise. Stirring is continued for 2 hours, whilst allowing the mixture to return to ambient temperature. 28 cc. 3N hydrochloric acid (0.084 mol) are then added and the precipitate formed is filtered off. The crystals are washed with acetone and with diisopropyl ether and then dried in vacuo. Off white crystals are obtained in quantitative yield; m.p.>260° C.; NMR (D2O): 6.75 (s,1H); 4.10 (m,2H); 2.80-3.50 (m,4H).

reactant | butyl lithium | C(CCC)[Li]
reactant | hexane | 0.084 mol | CCCCCC | C6H14
reactant | 5-trimethylsilyl-4,5,6,7-tetrahydrothieno[3,2-c]pyridine | 0.07 mol | C[Si](N1CC2=C(CC1)SC=C2)(C)C | C10H17NSSi
reactant | tributyl borate | 0.084 mol | B(OCCCC)(OCCCC)OCCCC | C12H27BO3
reactant | hydrochloric acid | 0.084 mol, 3N | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
solvent | HMPT | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
product | 4,5,6,7-Tetrahydro-thieno[3,2-c]pyridine-2-boronic acid | quantitative yield | S1C(=CC=2CNCCC21)B(O)O | C7H10BNO2S
